US09085555B2
(3-Acetyl-5-benzyloxy-indol-1-yl)-acetic acid
was prepared from 5-benzyloxy-1H-indole in a similar manner as described in Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)acetic acid. MS: 324 [M+H]+, 346 [M+Na]+; tR (HPLC conditions k): 3.34 min.

reactant | 5-benzyloxy-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | (3-Acetyl-5-benzyloxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OCC1=CC=CC=C1)CC(=O)O | C19H17NO4
